US08685975B2
To a solution of 2-(3,4,5-trimethoxyphenyl)furan (1.4 g, 5.98 mmol) in anhydr THF (70 mL) under argon in an oven-dried flask cooled to −78° C. was added n-butyl lithium (2.5 M in hexanes; 2.63 mL, 6.28 mmol) dropwise. After stirring for 1 hr at −78° C., a solution of N,2-dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide (1.75 g, 6.0 mmol) in THF (5 mL) was added dropwise. After stirring for 25 min, the mixture was allowed to warm to room temp while stirring for 2 hrs. The reaction was quenched with the addition of saturated aqueous NH4Cl then brine and EtOAc were added. The layers were separated and the organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography (60% EtOAc-hexanes) gave 2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-1-(5-(3,4,5-trimethoxyphenyl)furan-2-yl)ethanone as a fluffy yellow solid (0.81 g, 29% yield). MS: m/z 465.3 [M+H]+.

reactant | 2-(3,4,5-trimethoxyphenyl)furan | 5.98 mmol, 1.4 g | COC=1C=C(C=C(C1OC)OC)C=1OC=CC1 | C13H14O4
reactant | n-butyl lithium | 6.28 mmol, 2.5 M, 2.63 mL | C(CCC)[Li]
reactant | N,2-dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide | 6.0 mmol, 1.75 g | CON(C(C(C1=CC=C(C=C1)C=1OC(=NN1)C)OC)=O)C | C14H17N3O4
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-1-(5-(3,4,5-trimethoxyphenyl)furan-2-yl)ethanone | 0.81 g, 29% yield | COC(C(=O)C=1OC(=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)C=1OC(=NN1)C | C25H24N2O7
